US04370340
To a mixture of ethanol (200 ml) and water (40 ml) were added ammonium chloride (2.2 g) and iron metal (19.7 g). To the mixture was added 2-oxo-5-nitro-6-chloroindoline (12.5 g) at 60° C. After refluxing for 45 minutes, the reaction mixture was filtered under warm condition. The filter cake was washed with ethanol. The combined filtrate and washings were evaporated to dryness under reduced pressure to give 2-oxo-5-amino-6-chloroindoline (10.0 g).

reactant | ethanol | 200 ml | C(C)O | C2H6O
reactant | ammonium chloride | 2.2 g | [Cl-].[NH4+]
reactant | 2-oxo-5-nitro-6-chloroindoline | 12.5 g | O=C1NC2=CC(=C(C=C2C1)[N+](=O)[O-])Cl | C8H5ClN2O3
catalyst | iron | 19.7 g | [Fe] | Fe
solvent | water | 40 ml | O | H2O
product | 2-oxo-5-amino-6-chloroindoline | 10.0 g | O=C1NC2=CC(=C(C=C2C1)N)Cl | C8H7ClN2O
